US06348474B1
Diethyl-2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylate
Ethyl N-aminoisonicotinate 2,4-dinitrophenol salt (10.2 g) was suspended in ethanol (147 ml), and potassium carbonate (3.77 g) was added, which was followed by stirring at room temperature for 30 min. To the mixture was added ethyl acetoacetate (3.69 ml), and the mixture was stirred at 60° C. for 5 hr with heating. The insoluble matter was filtered off and the filtrate was concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=7/1) to give the objective compound (2.70 g) as an amber-colored solid.

reactant | Ethyl N-aminoisonicotinate 2,4-dinitrophenol salt | 10.2 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O.NN1CC=C(C(=O)OCC)C=C1
reactant | potassium carbonate | 3.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetoacetate | 3.69 ml | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | ethanol | 147 ml | C(C)O | C2H6O
product | Diethyl-2-methylpyrazolo[1,5-a]pyridine-3,5-dicarboxylate | 2.70 g | C(C)OC(=O)C=1C(=NN2C1C=C(C=C2)C(=O)OCC)C | C14H16N2O4
